US07750145B2
To a mixture of 3-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-1-[4-((1E)-3-carboxyprop-1-enyl)benzyl]-7-methyl-1H-indole (0.10 g), 2-(benzyloxy)ethanol (22 mg), 4-dimethylaminopyridine (7 mg) and dichloromethane (0.5 mL) was added dicyclohexylcarbodiimide (37 mg), and the mixture was stirred at room temperature overnight. The reaction mixture was directly purified by column chromatography on silica gel (eluent: n-hexane/ethylacetate=4/1-2/1) to give 3-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-1-(4-{(1E)-3-[2-(benzyl-oxy)ethoxycarbonyl]prop-1-enyl}benzyl)-7-methyl-1H-indole (48 mg). This material was dissolved in a mixed solvent of methanol (1 mL) and tetra hydrofuran (1 mL). To the solution was added 10% palladium-carbon powder (50 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 4 hours. The insoluble material was removed by filtration, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=12/1-8/1) to give the title compound (14 mg).

reactant | 3-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-1-[4-((1E)-3-carboxyprop-1-enyl)benzyl]-7-methyl-1H-indole | 0.10 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CN(C2=C(C=CC=C12)C)CC1=CC=C(C=C1)\C=C\CC(=O)O | C54H53NO7
reactant | 2-(benzyloxy)ethanol | 22 mg | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | dicyclohexylcarbodiimide | 37 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 7 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 3-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-1-(4-{(1E)-3-[2-(benzyl-oxy)ethoxycarbonyl]prop-1-enyl}benzyl)-7-methyl-1H-indole | 48 mg | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CN(C2=C(C=CC=C12)C)CC1=CC=C(C=C1)\C=C\CC(=O)OCCOCC1=CC=CC=C1 | C63H63NO8
